US04529549
50.0 g (0.344 mols) of 7-aminoheptanoic acid and 63.5 g (0.514 mol) of O-methylisourea sulfate were dissolved in 250 ml of 50% aqueous methanol (v/v). To the solution was added dropwise a solution of 34.3 g (0.858 mol) of sodium hdyroxide in 400 ml of water. Then, the mixture was heated overnight under reflux. The reaction mixture was concentrated to about a half volume under reduced pressure followed by cooling the concentrate to precipitate white crystals. The crystals were collected by filtration, and dried to give 42.6 g (yield: 66.1%) of 7-guanidinoheptanoic acid.

reactant | 7-aminoheptanoic acid | 0.344 mols, 50.0 g | NCCCCCCC(=O)O | C7H15NO2
reactant | O-methylisourea sulfate | 0.514 mol, 63.5 g | S(=O)(=O)(O)O.COC(N)=N
reactant | sodium | 0.858 mol, 34.3 g | [Na] | Na
solvent | methanol | 250 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
product | 7-guanidinoheptanoic acid | 42.6 g, yield: 66.1% | N(C(=N)N)CCCCCCC(=O)O | C8H17N3O2
